US06515124B2
Triethylsilane (0.15 mL, 0.94 mmol) was added to a solution of (Z)-2-[[2-chloro-4-[[(3-hydroxybenzyl)amino]carbonyl]benzoyl]amino]-3-[2-(1,1-dimethylethoxycarbonyl)amino-4-trifluoromethylthiazol-5-yl]propenoic acid methyl ester (130 mg, 0.198 mmol) in dichloromethane (1 mL). Trifluoroacetic acid (1 mL, 13.0 mmol) was added and the solution was stirred at room temperature for 2 h and then the solvents were removed under reduced pressure. NMR indicated that the reaction had not gone to completion, so the crude residue was re-dissolved in dichloromethane and treated with triethylsilane and trifluoroacetic acid as before. After the solution was stirred at room temperature for 3 h, the solvents were removed in vacuo and the residue was partitioned between ethyl acetate and saturated sodium bicarbonate solution. The organic phase was dried (Na2SO4), filtered and evaporated to give (Z)-3-(2-amino-4-trifluoromethylthiazol-5-yl)-2-[[2-chloro-4-[[(3-hydroxybenzyl)amino]carbonyl]benzoyl]amino]propenoic acid methyl ester (100 mg, 91% yield) as a yellow foam.

reactant | Triethylsilane | 0.94 mmol, 0.15 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | (Z)-2-[[2-chloro-4-[[(3-hydroxybenzyl)amino]carbonyl]benzoyl]amino]-3-[2-(1,1-dimethylethoxycarbonyl)amino-4-trifluoromethylthiazol-5-yl]propenoic acid methyl ester | 0.198 mmol, 130 mg | COC(/C(=C/C1=C(N=C(S1)NC(=O)OC(C)(C)C)C(F)(F)F)/NC(C1=C(C=C(C=C1)C(=O)NCC1=CC(=CC=C1)O)Cl)=O)=O | C28H26ClF3N4O7S
reactant | Trifluoroacetic acid | 13.0 mmol, 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | (Z)-3-(2-amino-4-trifluoromethylthiazol-5-yl)-2-[[2-chloro-4-[[(3-hydroxybenzyl)amino]carbonyl]benzoyl]amino]propenoic acid methyl ester | 100 mg, 91% yield | COC(/C(=C/C1=C(N=C(S1)N)C(F)(F)F)/NC(C1=C(C=C(C=C1)C(=O)NCC1=CC(=CC=C1)O)Cl)=O)=O | C23H18ClF3N4O5S
